US03989689
To the boiling suspension of 4.0 g of 2,3,4,5-tetrahydro-1-benzazepine-2,3-dione-4-carboxylic acid methyl ester in 130 ml of xylene, 3.85 g of 4-bromoaniline are added while stirring and the mixture refluxed for 6 hours under nitrogen. It is cooled to room temperature, filtered and the residue recrystallized from acetonitrile-acetic acid, to yield the 4-(4-bromophenylcarbamoyl)-2,3,4,5-tetrahydro-1-benzazepine-2,3,-dione melting at 226°-228°.

reactant | 2,3,4,5-tetrahydro-1-benzazepine-2,3-dione-4-carboxylic acid methyl ester | 4.0 g | COC(=O)C1C(C(NC2=C(C1)C=CC=C2)=O)=O | C12H11NO4
reactant | 4-bromoaniline | 3.85 g | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | xylene | 130 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4-bromophenylcarbamoyl)-2,3,4,5-tetrahydro-1-benzazepine-2,3,-dione | BrC1=CC=C(C=C1)NC(=O)C1C(C(NC2=C(C1)C=CC=C2)=O)=O | C17H13BrN2O3
